US04511391
Diethyl malonate (17.34 g) was added to a solution of sodium metal (2.35 g) in anhydrous absolute ethanol (40 ml). 1-(3,4-methylenedioxyphenyl)-but-1-en-3-one (20 g) was added to the solution and the volume of ethanol was made up to 80 ml. The mixture was heated under reflux with stirring for 2-4 hr. An aqueous solution of potassium hydroxide (25.0 g in 120 ml of water) was added and the mixture was heated under reflux for a further 6 hours. Subsequently, the ethanol was distilled off and the aqueous residue was acidified with dilute hydrochloric acid. After cooling to room temperature, the mixture was extracted with ethyl acetate and the organic phase was washed consecutively with water and an aqueous 10% sodium hydroxide solution. The basic extract was acidified with dilute aqueous hydrochloric acid and the resulting solution was extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous sodium sulfate, and the solvent was evaporated to give 3-hydroxy-5-(3,4-methylenedioxyphenyl)cyclohex-2-en-1-one as a crystalline solid, mp 181° C.

reactant | Diethyl malonate | 17.34 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 2.35 g | [Na] | Na
reactant | 1-(3,4-methylenedioxyphenyl)-but-1-en-3-one | 20 g | C1OC=2C=C(C=CC2O1)C=CC(C)=O | C11H10O3
reactant | potassium hydroxide | 120 ml, 25.0 g | [OH-].[K+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-hydroxy-5-(3,4-methylenedioxyphenyl)cyclohex-2-en-1-one | OC1=CC(CC(C1)C1=CC2=C(C=C1)OCO2)=O | C13H12O4
